US08022223B2
Step C: Preparation of methyl 4-(2-amino-5-bromopyridin-3-ylthio)benzoate:
Placed methyl 4-(2-aminopyridin-3-ylthio)benzoate (5.50 g, 21.1 mmol) in acetic acid (25 mL) and cooled to 0° C. Slowly added bromine (1.35 mL, 26.4 mmol) and stirred for an hour. Poured reaction mixture onto saturated sodium bisulfite and ice. Extracted with dichloromethane three times, washed with 2N NaOH, water, brine, dried, and concentrated. Subjected to MPLC (Biotage) eluting with 3:2 hexane:ethyl acetate to afford the title compound (4.87 g, 68.0% yield).

reactant | methyl 4-(2-aminopyridin-3-ylthio)benzoate | 21.1 mmol, 5.50 g | NC1=NC=CC=C1SC1=CC=C(C(=O)OC)C=C1 | C13H12N2O2S
reactant | bromine | 26.4 mmol, 1.35 mL | BrBr | Br2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | methyl 4-(2-amino-5-bromopyridin-3-ylthio)benzoate | 4.87 g, 68.0% yield | NC1=NC=C(C=C1SC1=CC=C(C(=O)OC)C=C1)Br | C13H11BrN2O2S
